US08557983B2
trans-4-morpholinocyclohexanol
Trans-4-aminocyclohexanol (0.5 g), 1-bromo-2-(2-bromoethoxy)ethane (1.07 g) and triethylamine (2.42 mL) were dissolved in anhydrous acetonitrile (20 mL). The reaction mixture was heated at 60° C. overnight. The organic solvent was removed under vacuum. The residue was purified by flash column chromatography on silica gel eluting with 7-10% methanol in dichloromethane to give the title compound.

reactant | Trans-4-aminocyclohexanol | 0.5 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 1.07 g | BrCCOCCBr | C4H8Br2O
reactant | triethylamine | 2.42 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | trans-4-morpholinocyclohexanol | O1CCN(CC1)[C@@H]1CC[C@H](CC1)O | C10H19NO2
